US07585977B2
2-Methyl-4-methylthiophenylboronic acid
Add 1M 3-methyl-phenylmagnesium bromide in THF (25 mL, 25 mmol) to −30° C. diethyl ether (50 mL). Add dimethyl disulfide (1.8 mL, 20 mmol) to the reaction over 3 minutes allowing the reaction to warm to room temperature. Dilute the reaction in H2O (75 mL) and diethyl ether (50 mL). Separate and extract the cloudy aqueous layer with diethyl ether (25 mL). Combine the organic layers and wash with H2O (25 mL). Dry the organic layer with Na2SO4 (30 g), filter over Celite 501 (10 g) and concentrate in vacuo to give 3.0 g of crude material. Combine with another batch of crude title compound that yielded 6.0 g crude. Chromatograph the entire 9.0 g crude on a SiO2 column in hexanes to give 7.2 g (70%) of 1-methyl-3-methylsulfanyl-benzene.

reactant | 3-methyl-phenylmagnesium bromide | 1M | CC=1C=C(C=CC1)[Mg]Br
reactant | THF | 25 mmol, 25 mL | C1CCOC1 | C4H8O
reactant | dimethyl disulfide | 20 mmol, 1.8 mL | CSSC | C2H6S2
solvent | H2O | 75 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-methyl-3-methylsulfanyl-benzene | 7.2 g, 70% | CC1=CC(=CC=C1)SC | C8H10S
